Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:15]([H:16])[H:17].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-5.22832852129
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],-1.32900751846
[O:1]=[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1],6.945993111760001
[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][O:8][H:9]>>[C:1]#[C:2][C:4](=[C:5][H:6])[O:7][O:8][H:9].[H:3],3.51482653401
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.43057045482
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][H:3].[C:4]([H:5])([H:6])=[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.02479719912
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])=[C:7]([H:8])[H:9],3.5730057791600003
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[O:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[C:9](=[O:10])[H:11],3.70277459885
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.980009892919999
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][C:2]1=[C:3][C:4]([H:5])=[C:6]([H:7])[O:8][C:9]1([H:10])[H:11],-0.93721902967
[C:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11]1>>[C:1]#[C:2][O:11][C:8]([C:3][C:4]([H:5])([H:6])[H:7])([H:9])[H:10],2.58543155296
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[C:8]([H:9])[H:10].[H:5],4.440177422430001
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13][H:14],5.19825839554
[O:1]=[C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])#[C:5][C:6]([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[H:12],3.38796339916
[H:1][C:2][O:3][C:4]#[C:5].[H:6]>>[H:1][C:2][O:3][C:4]#[C:5][H:6],-5.79849132696
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.0928347718800016
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][H:8],5.62807232285
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7](#[C:8][H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],0.877675454691
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10],4.44812596943
[C:8]#[C:9][H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10],-6.78838522651
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-2.03732230522
[H:1][C:2]#[C:3][C:5]([H:6])([O:7][H:8])[O:9][H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10],-2.09797558002
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[H:17].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],3.91514626464
[H:1][C:2]#[C:3][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.34435050384
[O:1][C:2][C:10]([C:7]([C:5](=[C:3][H:4])[H:6])([H:8])[H:9])([H:11])[H:12]>>[O:1]=[C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-5.743740012409999
[H:1][O:2][C:3]([H:4])[O:6][C:7][C:8][C:9]([H:10])[H:11].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11],-3.97673468658
[C:2]([H:3])#[C:4][C:5]([H:6])[O:7][C:8][H:9].[O:1]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][H:9],-4.48686130078
[H:1][C:2]([O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],3.67616292744
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[O:7][H:8])[O:9][H:10]>>[C:5](#[C:6][O:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4],-0.0923075045806999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.59194508
[H:4].[O:1][C:2]#[C:3][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.92793444795
